US09447078B2
Preparation of (R)-3-amino-1-(6-((cyclohexylmethyl)thio)pyridin-2-yl)propan-1-ol
Reduction of (R)-3-(6-((cyclohexylmethyl)thio)pyridin-2-yl)-3-hydroxypropanenitrile following the method described in Example 6 gave after flash chromatography purification (15%-20% 7N NH3/MeOH—CH2Cl2 gradient) Example 25 as a colorless oil. Yield (0.3 g, 43%); 1H NMR (400 MHz, CD3OD) δ 7.56 (t, J=7.6 Hz, 1H), 7.17 (d, J=7.6 Hz, 1H), 7.09 (d, J=8.0 Hz, 1H), 4.75-4.72 (m, 1H), 3.04 (d, J=7.2 Hz, 2H), 2.80 (t, J=7.6 Hz, 2H), 2.03-1.98 (m, 1H), 1.94-1.54 (m, 7H), 1.30-0.99 (m, 5H); RP-HPLC tR=9.63 min; ESI-MS m/z 281.2 [M+H]+.

reactant | (R)-3-(6-((cyclohexylmethyl)thio)pyridin-2-yl)-3-hydroxypropanenitrile | C1(CCCCC1)CSC1=CC=CC(=N1)[C@@H](CC#N)O | C15H20N2OS
reactant | NH3 MeOH CH2Cl2 | 7N | N.CO.C(Cl)Cl
product | (R)-3-amino-1-(6-((cyclohexylmethyl)thio)pyridin-2-yl)propan-1-ol | NCC[C@@H](O)C1=NC(=CC=C1)SCC1CCCCC1 | C15H24N2OS
